US08067445B2
Step 2: [4′-(6-Ethoxy-pyridin-3-yl)-2′-formyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester and 2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine.

reactant | (4′-bromo-2′-formyl-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO4
reactant | 2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | C(C)OC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
product | [4′-(6-Ethoxy-pyridin-3-yl)-2′-formyl-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NC(=CC1)OCC)C=O)=O | C25H25NO5
